### PR TITLE
feat(Wikipedia): Wieferich and Mirimanoff primes

### PR DESCRIPTION
**Pull request by tadamcz**
Adds four open problems on Wieferich primes from [Wikipedia's list of unsolved problems in mathematics](https://en.wikipedia.org/wiki/List_of_unsolved_problems_in_mathematics#Prime_numbers).

`FormalConjectures/Wikipedia/WieferichPrime.lean`:

- Are there infinitely many Wieferich primes?
- Are there any Wieferich primes in base 47?
- For any given integer $a > 0$, are there infinitely many primes $p$ such that $a^{p-1} \equiv 1 \pmod{p^2}$?

`FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean`:

- Can a prime $p$ satisfy $2^{p-1} \equiv 1 \pmod{p^2}$ and $3^{p-1} \equiv 1 \pmod{p^2}$ simultaneously?

New definitions in `FormalConjecturesForMathlib/NumberTheory/`:

- `IsWieferichPrimeBase a p`: $p$ is prime and $a^{p-1} \equiv 1 \pmod{p^2}$, with a `Decidable` instance.
- `IsWieferichPrime` and `IsMirimanoffPrime`: abbreviations for bases $2$ and $3$.

## Formalisation notes

- Question-form problems use `answer(sorry) ↔ ...`. The infinitude of Wieferich primes is stated directly, since the Wieferich prime article states it as a conjecture and this matches `WilsonPrime.lean` and `WallSunSun.lean`.
- The general-base question keeps the source's bound $a > 0$. The case $a = 1$ is trivially true. The docstring says so.
- Tests check the known Wieferich prime $1093$, the Mirimanoff prime $11$, base $1$, and that $2$ and $3$ satisfy neither congruence, so the statements need no hypothesis excluding small primes.

## Checks

- `lake --wfail build FormalConjectures.Wikipedia.WieferichPrime FormalConjectures.Wikipedia.WieferichMirimanoffPrime` succeeds.
- Statements were compared against the current wikitext of the source list. Docstring claims (only known examples, Lenstra's heuristic) follow the Wieferich prime article and Dobson, [On Lerch's formula for the Fermat quotient](https://arxiv.org/abs/1103.3907v6), section 9.

Part of the tracking list in #644 (Wieferich prime).

### CODE REVIEW

File: FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+-/
+
+/--
+**Wieferich prime to base `a`**
+A prime $p$ is a Wieferich prime to base $a$ if $a^{p-1} \equiv 1 \pmod{p^2}$.
+-/
+@[mk_iff]
+structure IsWieferichPrimeBase (a p : ℕ) : Prop where
+  prime : p.Prime
+  pow_modEq : a ^ (p - 1) ≡ 1 [MOD p ^ 2]
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean]: I would write this are p ^ 2 | a ^ (p - 1) - 1, since https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/FermatPsp.html#Nat.ProbablePrime does this

File: FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean [hunk 2]
```diff
@@ -0,0 +1,40 @@
...
+public import FormalConjecturesForMathlib.NumberTheory.WieferichPrime
+
+@[expose] public section
+
+/-!
+# Mirimanoff primes
+
+A *Mirimanoff prime* is a prime $p$ with $3^{p-1} \equiv 1 \pmod{p^2}$, i.e. a Wieferich prime
+to base $3$. The only known Mirimanoff primes are $11$ and $1006003$. The name comes from
+Mirimanoff's 1910 result that a failure of the first case of Fermat's Last Theorem for the
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean]: Im sure its provable in Lean 11 is a Mirimanoff prime as well (but unsure about 1006003 lol)

maybe merge this with the other ForMathlib file, they are quite the same

File: FormalConjectures/Wikipedia/WieferichPrime.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+
+/-- Every prime is a Wieferich prime to base $1$. -/
+@[category test, AMS 11]
+theorem isWieferichPrimeBase_one_iff (p : ℕ) : IsWieferichPrimeBase 1 p ↔ p.Prime := by
+  simp [isWieferichPrimeBase_iff, Nat.ModEq.refl]
+
+/-- The prime $1093$ is a Wieferich prime: $2^{1092} \equiv 1 \pmod{1093^2}$. -/
+@[category test, AMS 11]
+theorem isWieferichPrime_1093 : IsWieferichPrime 1093 := by
+  decide +kernel
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichPrime.lean:76]: can you also add 3511

File: FormalConjectures/Wikipedia/WieferichPrime.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Wieferich primes
+
+A Wieferich prime is a prime $p$ with $2^{p-1} \equiv 1 \pmod{p^2}$. The only known examples are
+$1093$ and $3511$. It is conjectured that there are infinitely many Wieferich primes; a heuristic
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichPrime.lean:23]: if these are the only known ones, I think stating this as a conjecture should happen here as well (similar with Mirimanoff)

File: FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
...
+- [Wikipedia, Wieferich prime](https://en.wikipedia.org/wiki/Wieferich_prime)
+- [OEIS A001220](https://oeis.org/A001220)
+-/
+
+/--
+**Wieferich prime to base `a`**
+A prime $p$ is a Wieferich prime to base $a$ if $a^{p-1} \equiv 1 \pmod{p^2}$.
+-/
+@[mk_iff]
+structure IsWieferichPrimeBase (a p : ℕ) : Prop where
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean:49]: for API maybe add that a = 1 and a = 0 (or generally mod p^2 ig) always work

File: FormalConjectures/Wikipedia/WieferichPrime.lean (hunk 4 above)
Comment (tadamcz) [reply FormalConjectures/Wikipedia/WieferichPrime.lean:23]: I don't understand (I'm not very good at maths). Could you say again more explicitly what you think should happen?

File: FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean (hunk 2 above)
Comment (tadamcz) [reply FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean]: So you want me to define the Mirianoff prime in the file `WieferichPrime.lean`?

File: FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean (hunk 5 above)
Comment (tadamcz) [reply FormalConjecturesForMathlib/NumberTheory/WieferichPrime.lean:49]: resolved with 305760b53fd158fc5f7f38f6f48b6c36e300e01e

File: FormalConjectures/Wikipedia/WieferichPrime.lean (hunk 3 above)
Comment (tadamcz) [reply FormalConjectures/Wikipedia/WieferichPrime.lean:76]: resolved with 1ba5645d2f8528a4f9c49d50bcf6c4b26c2c8a0f

File: FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean (hunk 2 above)
Comment (felixpernegger) [reply FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean]: its really not so important, but yeah would be nice

File: FormalConjectures/Wikipedia/WieferichPrime.lean (hunk 4 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/WieferichPrime.lean:23]: There are to known Wieferich primes 1093 and 3511. And you state the conjecture that there are ifnitely many. However it is in theory also possible, while there is a finite amount of Wieferich primes, we dont know all of them (and for example 10000000000001 or whatever is a wiferich prime we didnt know).

Since we only know the two (and I assume there has been computer work on this), it seems plausible all wieferich primes are 1093 and 3511. So this conjecture (of there only being those) should be in the file. And then same with Mirimanoff

File: FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean (hunk 2 above)
Comment (tadamcz) [reply FormalConjecturesForMathlib/NumberTheory/MirimanoffPrime.lean]: I merged it into WieferichPrime.lean in e563f7ba6f74e097b732cc21f06d6cff39980551

File: FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean [hunk 6]
```diff
@@ -0,0 +1,81 @@
...
+-/
+
+namespace WieferichMirimanoffPrime
+
+/--
+Can a prime $p$ satisfy $2^{p-1} \equiv 1 \pmod{p^2}$ and $3^{p-1} \equiv 1 \pmod{p^2}$
+simultaneously? That is, does there exist a prime $p$ that is both a Wieferich prime and a
+Mirimanoff prime?
+-/
+@[category research open, AMS 11]
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean:46]: IN the docsting add the source for this / that there is an heuristic again this (which you mention in the module description)

File: FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+    answer(sorry) ↔ ∃ p : ℕ, IsWieferichPrime p ∧ IsMirimanoffPrime p := by
+  sorry
+
+/--
+Are $11$ and $1006003$ the only Mirimanoff primes? They are the only known ones: Dorais and Klyve
+found no other below $9.7 \times 10^{14}$.
+-/
+@[category research open, AMS 11]
+theorem setOf_isMirimanoffPrime_eq :
+    answer(sorry) ↔ {p : ℕ | IsMirimanoffPrime p} = {11, 1006003} := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean]:
```suggestion
    answer(sorry) ↔ ∀ p, IsMirimanoffPrime p ↔ p = 11 ∨ p = 1006003 := by
```
same for Wieferich

File: FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean [hunk 8]
```diff
@@ -0,0 +1,81 @@
...
+/-- The prime $1006003$ is a Mirimanoff prime but not a Wieferich prime. -/
+@[category test, AMS 11]
+theorem isMirimanoffPrime_and_not_isWieferichPrime_1006003 :
+    IsMirimanoffPrime 1006003 ∧ ¬ IsWieferichPrime 1006003 :=
+  ⟨⟨by norm_num, by decide +kernel⟩, fun h => absurd h.sq_dvd_pow_sub_one (by decide +kernel)⟩
+
+/-- Neither $2$ nor $3$ is a Mirimanoff prime, so no hypothesis excluding them is needed in the
+statement of the problem. -/
+@[category test, AMS 11]
+theorem not_isMirimanoffPrime_two_three : ¬ IsMirimanoffPrime 2 ∧ ¬ IsMirimanoffPrime 3 := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean]:
```suggestion
theorem not_isMirimanoffPrime_two : ¬ IsMirimanoffPrime 2 := by
```
prettier

File: FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean [hunk 9]
```diff
@@ -0,0 +1,81 @@
...
+/-- The prime $11$ is a Mirimanoff prime but not a Wieferich prime. -/
+@[category test, AMS 11]
+theorem isMirimanoffPrime_and_not_isWieferichPrime_11 :
+    IsMirimanoffPrime 11 ∧ ¬ IsWieferichPrime 11 := by
+  decide
+
+/-- The prime $1006003$ is a Mirimanoff prime but not a Wieferich prime. -/
+@[category test, AMS 11]
+theorem isMirimanoffPrime_and_not_isWieferichPrime_1006003 :
+    IsMirimanoffPrime 1006003 ∧ ¬ IsWieferichPrime 1006003 :=
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean:69]: I think this is alright here, but just FYI if we did this in mathlib, these would be two statements (not "and" binder in the statement)

File: FormalConjectures/Wikipedia/WieferichPrime.lean [hunk 10]
```diff
@@ -0,0 +1,87 @@
...
+  sorry
+
+/--
+For any given integer $a > 0$, are there infinitely many primes $p$ such that
+$a^{p-1} \equiv 1 \pmod{p^2}$? The case $a = 1$ is trivial, since every prime qualifies
+(`isWieferichPrimeBase_one_iff`).
+-/
+@[category research open, AMS 11]
+theorem infinite_isWieferichPrimeBase :
+    answer(sorry) ↔ ∀ a : ℕ, 0 < a → {p : ℕ | IsWieferichPrimeBase a p}.Infinite := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/WieferichPrime.lean]:
```suggestion
    answer(sorry) ↔ ∀ a : ℕ, {p : ℕ | IsWieferichPrimeBase a p}.Infinite := by
```

File: FormalConjectures/Wikipedia/WieferichPrime.lean (hunk 4 above)
Comment (tadamcz) [reply FormalConjectures/Wikipedia/WieferichPrime.lean:23]: How about this? 38fd7ea138ca40302e871daedbea0c7bcfa8fe41

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/WieferichPrime.lean:23]: yes this is the diea, but also see my new review comment :)

File: FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean (hunk 9 above)
Comment (tadamcz) [reply FormalConjectures/Wikipedia/WieferichMirimanoffPrime.lean:69]: It's in a `@[category test]` so I think it's alright?

**Review by felixpernegger — APPROVED** [review]
LGTM

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
